US06756359B2
To a solution of 3-(1H-Imidazol-4-yl)-pyridine (1 eq) in DMF was added potassium carbonate (2 eq) under dry condition. After stirring for 1 hour, ethyl 2-bromoisobutyrate (5 eq) was added to the mixture. The solution was left stirring over 36 hours at room temperature. The reaction solvent was removed in vacuo and the solid was diluted with ethyl acetate washed with H2O, NaCl(sat), dried over sodium sulfate, filtered and concentrated. The crude product was purified by flash chromatography using a solvent gradient of 97% DCM, 3% MeOH and 0.1% TEA to yield 2-Methyl-2-(4-pyridin-3-yl-imidazol-1-yl)-propionic acid ethyl ester (33%). MH+(260).

reactant | 3-(1H-Imidazol-4-yl)-pyridine | 1 eq | N1C=NC(=C1)C=1C=NC=CC1 | C8H7N3
reactant | potassium carbonate | 2 eq | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 2-bromoisobutyrate | 5 eq | BrC(C(=O)OCC)(C)C | C6H11BrO2
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-Methyl-2-(4-pyridin-3-yl-imidazol-1-yl)-propionic acid ethyl ester | 33% | C(C)OC(C(C)(N1C=NC(=C1)C=1C=NC=CC1)C)=O | C14H17N3O2
